US08686043B2
N-{(1S,2R)-2-[4-(5-cyano-2-thienyl)phenoxy]cyclopentyl}propane-2-sulfonamide
To a microwave vial was added N-[(1S,2R)-2-(4-bromophenoxy)cyclopentyl]propane-2-sulfonamide (150.0 mg, 0.414 mmol), (5-cyano-2-thienyl)boronic acid (95.0 mg, 0.621 mmol), dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine (20.2 mg, 0.0410 mmol), palladium(II) acetate (7.4 mg, 0.033 mmol) and potassium fluoride (120 mg, 2.07 mmol). Dimethoxyethane (1.5 mL) was added and the reaction mixture was purged three times with nitrogen/vacuum. The reaction was subjected to microwave irradiation at 120° C. for 2 hours, then solvent was removed in vacuo and the residue was partitioned between ethyl acetate and saturated aqueous sodium chloride solution. The aqueous layer was extracted with ethyl acetate, and the organic layers were combined, dried over calcium sulfate, filtered, and concentrated in vacuo. The residue was purified by preparative thin layer chromatography on silica gel (Eluant: 40% ethyl acetate in heptane), to afford the title compound as a yellow oil which subsequently solidified. Yield: 104 mg, 0.266 mmol, 64%. LCMS m/z 391.0 (M+1). 1H NMR (500 MHz, CDCl3) δ 1.36 (d, J=6.8 Hz, 3H), 1.39 (d, J=6.8 Hz, 3H), 1.66 (m, 1H), 1.81-1.94 (m, 3H), 1.99 (m, 1H), 2.14 (m, 1H), 3.15 (septet, J=6.8 Hz, 1H), 3.89 (m, 1H), 4.64 (d, J=9.5 Hz, 1H), 4.69 (m, 1H), 6.95 (d, J=8.7 Hz, 2H), 7.18 (d, J=4.0 Hz, 1H), 7.54 (d, J=8.7 Hz, 2H), 7.57 (d, J=3.9 Hz, 1H).

reactant | N-[(1S,2R)-2-(4-bromophenoxy)cyclopentyl]propane-2-sulfonamide | 0.414 mmol, 150.0 mg | BrC1=CC=C(O[C@H]2[C@H](CCC2)NS(=O)(=O)C(C)C)C=C1 | C14H20BrNO3S
reactant | (5-cyano-2-thienyl)boronic acid | 0.621 mmol, 95.0 mg | C(#N)C1=CC=C(S1)B(O)O | C5H4BNO2S
reactant | dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine | 0.0410 mmol, 20.2 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | potassium fluoride | 2.07 mmol, 120 mg | [F-].[K+]
catalyst | palladium(II) acetate | 0.033 mmol, 7.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Dimethoxyethane | 1.5 mL | C(OC)COC | C4H10O2
product | N-{(1S,2R)-2-[4-(5-cyano-2-thienyl)phenoxy]cyclopentyl}propane-2-sulfonamide | C(#N)C1=CC=C(S1)C1=CC=C(O[C@H]2[C@H](CCC2)NS(=O)(=O)C(C)C)C=C1 | C19H22N2O3S2
